US07105507B2
1,1-Dimethylethyl 1-Oxa-9-azaspiro[5.5]undec-3-en-9-carboxylate
Solutions of 1,1-dimethylethyl 4-(2-propenyl)-4-(2-propenyloxy)-1-piperidinecarboxylate (Description 130, 4.9 g, 17.4 mmol) in dichloromethane (1.2 L) and bis(tricyclohexylphosphine)benzylidine ruthenium (IV) dichloride (717 mg, 0.87 mmol) in dichloromethane (1.2 L) were added dropwise simultaneously to dichloromethane (600 mL) over a period of 8 hours, and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography on silica gel, eluting with 9:1 isohexane:ethyl acetate, to give the title compound (3.3 g, 75%). m/z (ES+) 254 (M+1).

reactant | 1,1-dimethylethyl 4-(2-propenyl)-4-(2-propenyloxy)-1-piperidinecarboxylate | 17.4 mmol, 4.9 g | C(C=C)C1(CCN(CC1)C(=O)OC(C)(C)C)OCC=C | C16H27NO3
solvent | dichloromethane | 1.2 L | ClCCl | CH2Cl2
solvent | dichloromethane | 1.2 L | ClCCl | CH2Cl2
catalyst | bis(tricyclohexylphosphine)benzylidine ruthenium (IV) dichloride | 0.87 mmol, 717 mg | C=CC1=CC=CC=C1.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Ru]Cl
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl 1-Oxa-9-azaspiro[5.5]undec-3-en-9-carboxylate | 3.3 g, 75% | O1CC=CCC12CCN(CC2)C(=O)OC(C)(C)C | C14H23NO3
